US05792769
b) 2-Chlorobenzenesulfonic acid 3-[(piperidin-3-yl)methoxy]-5-methylphenyl ester
2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]methoxy]-5-methylphenyl ester (745 mg, 1.5 mmol), as prepared in the preceding step, was treated with 20 mL of 4N HCl in 1,4-dioxane at room temperature for 2 h. The solvent was removed in vacuo and the residue was purified by flash column chromatography (10% methanol in methylene chloride saturated with NH3) to give the title compound as a colorless syrup (565 mg, 94%). 1H-NMR (300 MHz, CDCl3) δ 1.45 (t, 1H), 1.94 (m, 3H), 2.23 (s, 3H), 2.45 (bs, 1H), 2.77 (t, 2H), 3.50 (dd, 2H), 3.76 (m, 2H), 6.46 (d, 1H), 6.55 (d, 2H), 7.40 (dd, 1H), 7.62 (m, 2H), 7.96 (dd, 1H). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C19 H22NO4SCl: 396.1 (M+H), 418.1 (M+Na), Found: 395.8, 418.2.

reactant | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]methoxy]-5-methylphenyl ester | 1.5 mmol, 745 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C24H30ClNO6S
reactant | HCl | 4N, 20 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[(piperidin-3-yl)methoxy]-5-methylphenyl ester | 565 mg, 94% | N1CC(CCC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H22ClNO4S
